US07812160B2
A solution of methyl [2-(4-aminobenzyl)-4-methyl-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate (0.034 g, 0.10 mmol) in THF (1 mL) at room temperature was treated with PyBOP (0.052 g, 0.10 mmol), 2-naphthoic acid (0.019 g, 0.11 mmol), and N,N-diisopropylethylamine (0.017 mL, 0.10 mmol). After stirring at room temperature for 17 hours, the reaction mixture was poured into water and extracted with EtOAc. The combined organic extracts was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The remaining residue was chromatographed over silica gel eluting with 60% EtOAc in CH2Cl2 to give methyl {4-methyl-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate (0.018 g, 36% yield) as a yellow oil.

reactant | methyl [2-(4-aminobenzyl)-4-methyl-6-pyrrolidin-1-ylpyrimidin-5-yl]acetate | 0.10 mmol, 0.034 g | NC1=CC=C(CC2=NC(=C(C(=N2)C)CC(=O)OC)N2CCCC2)C=C1 | C19H24N4O2
reactant | PyBOP | 0.10 mmol, 0.052 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2-naphthoic acid | 0.11 mmol, 0.019 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | N,N-diisopropylethylamine | 0.10 mmol, 0.017 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl {4-methyl-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate | 0.018 g, 36% yield | CC1=NC(=NC(=C1CC(=O)OC)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C30H30N4O3
